US07544697B2
Under a nitrogen atmosphere, 2-bromoethyl methyl ether (19.7 g, 142 mmol) was added to a mixture of ethyl 5-{2-[(tert-butoxycarbonyl)amino]-2-methylpropyl}-1H-pyrazole-3-carboxylate (40 g, 129 mmol, prepared according to the method of Example 64 Part A using hydrazine hydrate in lieu of propylhydrazine oxalate) and sodium tert-butoxide (12.4 g, 129 mmol) in ethanol (128 mL). The reaction mixture was heated at reflux for 5 hours; an additional 0.2 equivalents of both sodium tert-butoxide and 2-bromoethyl methyl ether were added, and the reaction mixture was heated at reflux for an additional 21 hours. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between water and tert-butyl methyl ether. The aqueous layer was extracted with tert-butyl methyl ether (×3). The combined organics were dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide 46.0 g of IFC (65 cartridge eluting with 1:1 tert-butyl methyl ether:hexanes) to provide a pale yellow oil. This material was triturated with 40 mL of 1:1 tert-butyl methyl ether:hexanes, seeded with product from an earlier run, stirred until a white solid formed, and then concentrated under reduced pressure to provide 24.83 g of ethyl 5-{2-[(tert-butoxycarbonyl)amino]-2-methylpropyl}-1-(2-methoxyethyl)-1H-pyrazole-3-carboxylate as a white solid, mp 92-93° C. MS (APCI) m/z 370 (M+H)+; Anal. Cacld for C18H31 N3O5: C, 58.52; H, 8.46; N, 11.37. Found: C, 58.65; H. 8.69; N, 11.47.

reactant | 2-bromoethyl methyl ether | 142 mmol, 19.7 g | COCCBr | C3H7BrO
reactant | ethyl 5-{2-[(tert-butoxycarbonyl)amino]-2-methylpropyl}-1H-pyrazole-3-carboxylate | C(C)(C)(C)OC(=O)NC(CC1=CC(=NN1)C(=O)OCC)(C)C | C15H25N3O4
reactant | hydrazine hydrate | O.NN
reactant | propylhydrazine oxalate | C(C(=O)O)(=O)O.C(CC)NN
reactant | sodium tert-butoxide | 129 mmol, 12.4 g | CC(C)([O-])C.[Na+]
reactant | sodium tert-butoxide | 0.2 equivalents | CC(C)([O-])C.[Na+]
solvent | ethanol | 128 mL | C(C)O | C2H6O
product | ethyl 5-{2-[(tert-butoxycarbonyl)amino]-2-methylpropyl}-1-(2-methoxyethyl)-1H-pyrazole-3-carboxylate | 24.83 g | C(C)(C)(C)OC(=O)NC(CC1=CC(=NN1CCOC)C(=O)OCC)(C)C | C18H31N3O5
